US08119314B1
Control Experiment Wherein the Building Block benzene-1,4-dimethanol was not Included
(Action A) Preparation of the liquid containing reaction mixture. The following were combined: the building block N4,N4,N4′,N4′-tetrakis(4-(methoxymethyl)phenyl)biphenyl-4,4′-diamine [segment=N4,N4,N4′,N4′-tetra-p-tolylbiphenyl-4,4′-diamine; Fg=methoxy ether (—OCH3); (1.12 g, 1.7 mmol)], and 17.9 g of 1-methoxy-2-propanol. The mixture was shaken and heated to 60° C. until a homogenous solution resulted. Upon cooling to room temperature, the solution was filtered through a 0.45 micron PTFE membrane. To the filtered solution was added an acid catalyst delivered as 0.31 g of a 10 wt % solution of p-toluenesulfonic acid in 1-methoxy-2-propanol to yield the liquid containing reaction mixture.

reactant | N4,N4,N4′,N4′-tetrakis(4-(methoxymethyl)phenyl)biphenyl-4,4′-diamine | 1.7 mmol, 1.12 g | COCC1=CC=C(C=C1)N(C1=CC=C(C=C1)C1=CC=C(C=C1)N(C1=CC=C(C=C1)COC)C1=CC=C(C=C1)COC)C1=CC=C(C=C1)COC | C44H44N2O4
reactant | 1-methoxy-2-propanol | 17.9 g | COCC(C)O | C4H10O2
product | benzene-1,4-dimethanol | C1(=CC=C(C=C1)CO)CO | C8H10O2
